US05091432
Synthesis of 3-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]propane sulfonic acid (AIT-0093)
0.300 g (0.9111 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester (AIT-0081) and 0.127 g (0.9111 mmol) of 3-amino-1-propane sulfonic acid were placed into a 10 ml round bottom flask with 2 ml of dimethylsulfoxide and a magnetic stirring bar. To this solution was added 0.100 g (0.988 mmol) of triethylamine and the solution immediately turned green. The solution was stirred at room temperature for five hours. Dimethylsulfoxide was removed in vacuo with gentle heating. 9 ml of acetone was added and the solution was triturated with methanol until homogeneous. No precipitate had formed. The solution was transferred to a 50 ml round bottom flask with 10 ml acetone and 5 ml methanol. Ether was added until just before the cloud point and the flask was placed into freezer overnight (<0° C.).

reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester | 0.9111 mmol, 0.300 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C14H11N5O5
reactant | 3-amino-1-propane sulfonic acid | 0.9111 mmol, 0.127 g | NCCCS(=O)(=O)O | C3H9NO3S
reactant | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
reactant | triethylamine | 0.988 mmol, 0.100 g | C(C)N(CC)CC | C6H15N
solvent | Ether | CCOCC | C4H10O
solvent | methanol | 5 ml | CO | CH4O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]propane sulfonic acid | O=C1C=2N=CN(C2N=CN1)CCC(=O)NCCCS(=O)(=O)O | C11H15N5O5S
